US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-1-methyl-propyl)-amide
The title compound was synthesized in analogy to Example 8e, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and 2-amino-2-methyl-1-butanol (CAN 10196-30-2, 64.74 mg, 0.64 mmol) as starting materials, and isolated (12 mg, 8.79%) as off white solid, LC-MS (UV peak area, ESI) 100%, 320.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-2-methyl-1-butanol | 0.64 mmol, 64.74 mg | NC(CO)(CC)C | C5H13NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-1-methyl-propyl)-amide | OCC(CC)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C17H25N3O3
